US04547501
4-Chloro-1-n-propyl-[1,2,4]-triazolo[4,3-a]quinoxaline (1.23 g., 0.005 mole), the product of Example 5, and 1.1 g. (0.015 mole) of diethylamine in N,N-dimethylformamide (15 ml.) were stirred at room temperature for 2 hours. The reaction mixture was then poured over ice. The precipitate was removed by filtration, washed with water and air dried. Recrystallization (twice) from ethanol/water afforded 1.1 g. (78% yield) of pure 4-diethylamino-1-n-propyl-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 92°-94° C. Mass spectrum: m/e, 283 (P).

reactant | 4-Chloro-1-n-propyl-[1,2,4]-triazolo[4,3-a]quinoxaline | 0.005 mole, 1.23 g | ClC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CCC | C12H11ClN4
reactant | diethylamine | 0.015 mole | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-diethylamino-1-n-propyl-[1,2,4]triazolo[4,3-a]quinoxaline | 78% yield | C(C)N(C=1C=2N(C3=CC=CC=C3N1)C(=NN2)CCC)CC | C16H21N5
